US07381719B2
Mix (±)-2-aminocyclohexanol (1.5227 g, 13.2 mmol), K2CO3 (4.56 g, 33.0 mmol), and 1-(2-chloroethyl)-4-methoxybenzene (2.0 mL, 13.2 mmol) in DMF (30 mL). Heat at 100° C. for 24 hours. Cool down to room temperature and filtrate with MeOH wash. Concentrate and remove DMF azeotropically with xylenes. Take up the residue in CH2Cl2 and H2O (100 mL each). Separate the layers and extract the aqueous layer with CH2Cl2 (2×100 mL). Wash the organic layers with H2O and brine (100 mL each). Dry the combined organic layers over MgSO4, concentrate and purify by flash chromatography, eluting with 50:45:5 EtOAc/CH2Cl2/2.0 M NH3 in MeOH to afford 2-(4-methoxyphenethylamino)cyclohexanol. (1.38 g, 42%).

reactant | (±)-2-aminocyclohexanol | 13.2 mmol, 1.5227 g | NC1C(CCCC1)O | C6H13NO
reactant | K2CO3 | 33.0 mmol, 4.56 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(2-chloroethyl)-4-methoxybenzene | 13.2 mmol, 2.0 mL | ClCCC1=CC=C(C=C1)OC | C9H11ClO
reactant | MeOH | CO | CH4O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-(4-methoxyphenethylamino)cyclohexanol | COC1=CC=C(CCNC2C(CCCC2)O)C=C1 | C15H23NO2
